US07091214B2
A modification of the method described in Part E of Example 1 was used to treat 7-bromo-4-chloro-3-nitroquinoline (20.0 g, 69.6 mmol) with 4-amino-1-butanol (6.9 mL, 76.5 mmol). The addition of 4-amino-1-butanol was carried out at ambient temperature. The product, 4-(7-bromo-3-nitroquinolin-4-ylamino)butan-1-ol (21.1 g) was isolated as a yellow solid and used without purification.

reactant | 7-bromo-4-chloro-3-nitroquinoline | 69.6 mmol, 20.0 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])Cl | C9H4BrClN2O2
reactant | 4-amino-1-butanol | 76.5 mmol, 6.9 mL | NCCCCO | C4H11NO
product | 4-(7-bromo-3-nitroquinolin-4-ylamino)butan-1-ol | 21.1 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCCCO | C13H14BrN3O3
